US07582781B2
1,2-Epoxy-2-(2,4-difluorophenyl)butan-3-ol
A solution of 0.45 g (1.4 mmol) of 1-chloro-2-(2,4-difluorophenyl)-3-(pivaloyloxy)butan-2-ol ((2S,3R)/(2R,3R)=93/7)) in 3 mL of methanol was cooled to 0° C., and 0.33 g (1.7 mmol) of a 28% solution of NaOMe in methanol was added. The reaction was performed for 1 hour and at room temperature for another 16 hours. Then, 5 mL of water was added to stop the reaction, and extraction was performed with ethyl acetate (20 mL). After drying over anhydrous sodium sulfate, concentration was performed under reduced pressure to obtain 0.31 g of a crude product. The resulting product was purified by column on silica gel to obtain 0.11 g of the title compound (yield: 40%) ((2R,3R)/(2S,3R)=96/4 (the diastereomeric ratio was measured by HPLC under the same HPLC measurement conditions as those in Example 10)).

reactant | 1-chloro-2-(2,4-difluorophenyl)-3-(pivaloyloxy)butan-2-ol | 1.4 mmol, 0.45 g | ClCC(C(C)OC(C(C)(C)C)=O)(O)C1=C(C=C(C=C1)F)F | C15H19ClF2O3
reactant | NaOMe | C[O-].[Na+]
reactant | water | 5 mL | O | H2O
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 3 mL | CO | CH4O
product | 1,2-Epoxy-2-(2,4-difluorophenyl)butan-3-ol | 0.11 g, yield: 40% | O1CC1(C(C)O)C1=C(C=C(C=C1)F)F | C10H10F2O2
